Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / ACE Inhibitors
 
Attending: ___
 
Chief Complaint:
Speech difficulties
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ with a history of CAD s/p CABG, Afib on 
coumadin, HTN, HLD, DM on insulin, CKD who presented for 
elective LHC for symptoms of progressive dyspnea and chest pain, 
found to have 3 vessel disease with no stenting performed. After 
catheterization, the patient was noted to have R facial droop 
and difficulty speaking. A code stroke was called at 1505, and I 
was at bedside within 10 minutes. NIHSS 4, patient with mild R 
facial droop and difficulty producing words and making fluent 
sentences, patient did not know month. CT Head neg for 
hemorrhage, tPA not given because of elevated PTT. The patient 
was initially admitted to Neuro ICU in case of tPA
administration.
 
Past Medical History:
1.  Coronary artery disease status post CABG ___ (LIMA to
diagonal and LAD as well as vein grafts to OM branch for 
unstable
angina two-vessel CAD) and RCA had no obstructive disease. 
Exercise MIBI in ___ negative for ischemia - fixed
inferolateral defect. 
2.  Atrial fibrillation, status post AVJ ablation and Tektronix
dual-chamber PPM implanted ___, on warfarin for
thromboembolic prophylaxis.
3.  Infarct-related cardiomyopathy with ___ Heart
___ Class II symptoms (EF 35-40% ___
4.  Hypertension.
5.  Hyperlipidemia.
6.  Type 2 diabetes.
7.  Chronic kidney disease.
8.  Glaucoma (s/p laser surgery ___
9.  Peripheral neuropathy
10. Hammer toe surgery - bilaterally
11. Nephrolithiasis
12. ?TIA s/p cath ___
 
Social History:
___
Family History:
Unable to obtain due to aphasia
 
Physical Exam:
Admission Exam:
VS T: 98.4 HR: 70 BP: 161/94 RR: 15 SaO2: 97%
- General/Constitutional: Lying in bed comfortably, NAD
- Eyes: Round, regular pupils. No conjunctival icterus, no
injection.
- Ear, Nose, Throat: No oropharyngeal lesions. Normal appearance
of the tongue.
- Neck: No meningismus. No lymphadenopathy.
- Musculoskeletal: No focal spinal tenderness. Unable to fully
test range of motion of neck.
- Skin: No rashes. No concerning lesions appreciated.
- Cardiovascular: Regular rate. Regular rhythm. No murmurs, 
rubs,
or gallops appreciated. Normal distal pulses.
- Respiratory: Lungs clear to auscultation bilaterally. No
crackles. No wheezes.
- Gastrointestinal: Soft. Nontender. Nondistended.
- Psychiatric: Tearful affect.

___ Stroke Scale - Total [4]
1a. Level of Consciousness -0
1b. LOC Questions -1
1c. LOC Commands -0
2. Best Gaze -0
3. Visual Fields -0
4. Facial Palsy -1
5a. Motor arm, left -0
5b. Motor arm, right -0
6a. Motor leg, left -0
6b. Motor leg, right -0
7. Limb Ataxia -0
8. Sensory -0
9. Language -2
10. Dysarthria -0
11. Extinction and Neglect -0

Neurologic Examination:

- Mental Status - Awake, alert. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Does not follow commands. Speech non-fluent, 
no
repetition, comprehension not intact. No evidence of 
hemineglect.

- Cranial Nerves - [II] PERRL 3->2 brisk. VF full to finger
movement. Funduscopy unable to be performed. [III, IV, VI] EOMI,
no nystagmus. [V] V1-V3 without deficits to light touch
bilaterally. [VII] Mild R nasolabial flattening. [VIII] Hearing
intact to finger snap bilaterally. [IX, X] Palate elevation
symmetric. [XI] SCM/Trapezius strength unable to assess. [XII]
Tongue unable to assess.

- Motor - Normal bulk and tone. No pronation, no drift. No 
tremor
or asterixis. Moving all extremities equally and spontaneously,
does provide some resistance.

- Sensory - No deficits to pinprick bilaterally. No extinction 
to
double simultaneous tactile stimulation.

- Reflexes
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 1      1      1      1        0
R 1      1      1      1        0
Plantar response mute bilaterally.

- Coordination - Unable to assess

- Gait - Unable to assess

Discharge Exam:
- Mental status: Awake, alert, oriented to person, place, time. 
Attention intact. Language fluent, very mild aphasia, improved 
from prior. Follows commands. Very mild naming difficulty with 
low frequency objects, improved from prior. Trouble with 
grammatical structure and comprehension. Occasional 
symmantic/phonemic difficulties.
- Cranial nerves: VFF to confrontation. EOMI. PERRL. Face 
symmetric, face sensation intact. Hearing intact. Tongue 
midline.
- Motor: strength ___ in all extremities
- Sensory: BUE intact to fine touch
- Coordination: intact to fine finger tap
- Gait: not tested
 
Pertinent Results:
___ CT Head:
1. Study limited by residual contrast. Small hyperintensity in 
the left 
sylvian fissure which may be contrast but cannot exclude 
subarachnoid 
hemorrhage. No evidence of infarction, MRI would more sensitive 
for detecting 
infarction. 
  
2. Rounded density in the anterior hemisphere fissure, cannot 
exclude anterior 
communicating artery aneurysm, recommend CTA for further 
evaluation. 

___ CTA:
Lobulated aneurysm of an anomalous ACom complex, measuring 5 mm 
by 2 mm.

___ INR pending

HgbA1c 7.9
TSH 1
LDL 72
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of CAD s/p CABG, Afib on 
coumadin, HTN, HLD, DM on insulin, CKD who presented for 
elective LHC, found to have 3 vessel disease with no stenting 
performed, who developed acute ischemic stroke with severe 
aphasia and mild R facial droop. Likely vascular area of stroke 
is L MCA territory, etiology likely embolic; Possibly from Afib 
off coumadin for cath, INR 1.2. Also possibly from 
atherosclerotic plaque disrupted from vascular intervention. He 
was initially admitted to the ICU for possible tPA 
administration but tPA was contraindicated due to elevated PTT 
(heparin administered during cath). The patient was transferred 
to the floor, with significant improvement in his aphasia. He is 
discharged to rehab.

# Stroke: 
- Etiology - likely embolic. Possibly from Afib off coumadin for 
cath, INR 1.2. Also possibly from atherosclerotic plaque 
disrupted from vascular intervention.
- likely L MCA territory. MRI not done due to PPM, CTA Head and 
Neck showed lobulated ACom aneurysm
- ASA 81mg daily, warfarin 7.5 mg daily.
- ___
- passed bedside and formal swallow eval, regular diet, thin 
liquids
- HgbA1c 7.9, TSH 1, LDL 72. Will need follow up with PCP 
regarding diabetes, although at ___ years old, control below A1c 
8 is likely adequate (to avoid risks associated with 
hypoglycemia in elderly)
- Stroke Clinic appointment with Dr. ___ on ___ at 1:30 pm. ___, ___ floor.

# Incidental Acom aneurysm
- 5x2 mm, not related to current symptoms
- clinic follow up with Neurosurgery on ___ at 2:30 pm in 
___ wuite 3B, ___

# ___:
- ECG  
- Telemetry showed patient was A-sensed V-paced
- warfarin + ASA - per Cardiologist Dr. ___ reduce to ASA 
81 mg. Patient will need to be discharged on both medications.
- Cardiology Clinic follow up with Dr. ___ on ___ at 1:20 
pm in ___. ___ floor

# ENDO:
- NPH 24 units + SSI

======================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident] – () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? (x) Yes (LDL = 
72) - () No

5. Intensive statin therapy administered? (x) Yes - () No [if 
LDL >= 100, reason not given: ____ ]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? () Yes - (x) No [if no, 
reason: (x) non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - (x) Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - () N/A

 
Medications on Admission:
Medications - Prescription
FINASTERIDE - finasteride 5 mg tablet. 1 tablet(s) by mouth 
daily
-  (Prescribed by Other Provider)
IRBESARTAN [AVAPRO] - Avapro 300 mg tablet. 1 Tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
METFORMIN [FORTAMET] - Fortamet 1,000 mg tablet,extended 
release.
1 Tablet(s) by mouth twice a day -  (Prescribed by Other
Provider)
ROSUVASTATIN [CRESTOR] - Crestor 10 mg tablet. 1 Tablet(s) by
mouth once a day
TAMSULOSIN [FLOMAX] - Flomax 0.4 mg capsule. 1 Capsule(s) by
mouth once a day -  (Prescribed by Other Provider)
TIMOLOL [BETIMOL] - Betimol 0.5 % eye drops. 1 gtt ___ daily - 
(Prescribed by Other Provider)
WARFARIN [COUMADIN] - Coumadin 7.5 mg tablet. 1 tablet(s) by
mouth daily -  LAST DOSE ___
 
Medications - OTC
CYANOCOBALAMIN (VITAMIN B-12) - cyanocobalamin (vit B-12) 1,000
mcg tablet. 2 tablet(s) by mouth daily -  (Prescribed by Other
Provider)
NPH INSULIN HUMAN RECOMB [HUMULIN N] - Humulin N 100 unit/mL
subcutaneous suspension. 24 units sc at bedtime -  (Prescribed 
by
Other Provider)
 
Discharge Medications:
1. Finasteride 5 mg PO DAILY 
2. Cyanocobalamin ___ mcg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
4. Rosuvastatin Calcium 10 mg PO DAILY 
5. Tamsulosin 0.4 mg PO HS 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
7. irbesartan 300 mg oral daily 
8. NPH 24 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
9. Warfarin 7.5 mg PO DAILY16 
10. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
Acute ischemic stroke
Atrial fibrillation
Diabetes mellitus type 2, insulin dependent

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of aphasia resulting from 
an ACUTE ISCHEMIC STROKE, a condition in which a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Atrial fibrillation, atherosclerosis/hyperlipidemia, diabetes
We are changing your medications as follows:
No changes
Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake
It was a pleasure providing you with care during this 
hospitalization.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___